US07368578B2
4-Benzyloxy-3-methoxymethoxybenzaldehyde (32.60 g) 5% palladium on carbon (30.0 g) and tetrahydrofuran (500 mL) were subjected to catalytic reduction under a hydrogen atmosphere and atmospheric pressure. The catalyst was filtered off and the filtrate was concentrated. The residue was subjected to silica gel column chromatography, and eluted with ethyl acetate-hexane (1:3, v/v) to give 4-hydroxy-3-methoxymethoxybenzaldehyde as a colorless oil (11.08 g, yield 51%).

reactant | 4-Benzyloxy-3-methoxymethoxybenzaldehyde | 32.60 g | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)OCOC | C16H16O4
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
product | 4-hydroxy-3-methoxymethoxybenzaldehyde | 11.08 g, yield 51% | OC1=C(C=C(C=O)C=C1)OCOC | C9H10O4
